US07884124B2
Methyl 6-fluoro-4-((2-(trimethylsilyl)ethoxy)methyl)-4H-thieno[3,2-b]pyrrole-5-carboxylate (16 mg, 0.0485 mmol) was dissolved in 3 mL anhydrous DMF. TBAF (1.0 M in THF, 0.485 mL, 10 equiv) and ethylenediamine (0.10 mL, 87.45 mg, 1.455 mmol, 30 equiv) were added, and the reaction was heated to 80° C. for 1 h and then allowed to cool to rt overnight. TLC (1/1 EtOAc in heptane, visualized with anisaldehyde and heat) indicated complete reaction. The product was partitioned with LiCl saturated solution and EtOAc, dried (Na2SO4), filtered, evaporated in vacuo the organic layer to give a residue. The residue was passed through a 5 g silica gel cartridge (1/1 EtOAc in heptane) to give methyl 6-fluoro-4H-thieno[3,2-b]pyrrole-5-carboxylate (9 mg, 94% yield) as a white solid. The regiochemistry of fluorine was determined via NMR-NOE experiments. 1H NMR (400 MHz, (CD3)2CO) δ ppm 3.86 (s, 3H) 7.03 (dd, J=5.27, 2.29 Hz, 1H) 7.55 (d, J=5.27 Hz, 1H) 10.81 (br. s., 1H). 19F NMR (376 MHz, (CD3)2CO) δ ppm −155.88 (dd, J=27.47, 2.29 Hz, 1F).

reactant | Methyl 6-fluoro-4-((2-(trimethylsilyl)ethoxy)methyl)-4H-thieno[3,2-b]pyrrole-5-carboxylate | 0.0485 mmol, 16 mg | FC=1C2=C(N(C1C(=O)OC)COCC[Si](C)(C)C)C=CS2 | C14H20FNO3SSi
reactant | TBAF | 1.0 M, 0.485 mL, 10 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ethylenediamine | 1.455 mmol, 0.10 mL, 87.45 mg, 30 equiv | C(CN)N | C2H8N2
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | heptane | CCCCCCC | C7H16
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 6-fluoro-4H-thieno[3,2-b]pyrrole-5-carboxylate | 9 mg, 94% yield | FC=1C2=C(NC1C(=O)OC)C=CS2 | C8H6FNO2S
